data/pmechdb/original/mc_train_fold0/raw/train.txt
[B-]([OH+:21][C:20](C)(C1=CC(=CC=C1)C#N)[O:10]CCO)(F)(F)F.CCOCC.C(CO)O>>[B-]([OH:21])(F)(F)F.C[C:20](=[O+:10]CCO)C1=CC(=CC=C1)C#N.CCOCC.C(CO)O 10=20;20,21=21
[CH3:20][O+:21]=C1C(CCO1)(C2=CC=CC=C2)C3=C(C=CC=C3)O.[Br-:10].CO>>[CH3:20][Br:10].C1COC(=[O:21])C1(C2=CC=CC=C2)C3=C(C=CC=C3)O.CO 10=20;20,21=21
[H:20][O+:21]=C1CCC2C=CC1O2.[OH2:10].N#N.OS(=O)(=O)[O-].[Na+]>>[H:20][OH2+:10].C1CC(=[O:21])C2C=CC1O2.N#N.OS(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:20][C:21]1(C=C([O+:23]=[C:22]1C2=CC=CC=C2)C)C.C(F)(F)(F)S(=O)(=O)[O-:10].CC1=CC=CC=C1.O>>[H:20][O:10]S(=O)(=O)C(F)(F)F.CC1=C[C:21](=[C:22]([O:23]1)C2=CC=CC=C2)C.CC1=CC=CC=C1.O 10=20;22,23=23;20,21=21,22
[H:20][O:21][P+:22](C1CCCCC1)(C2CCCCC2)C3CCCCC3.[F-:10].[B-](F)(F)(F)F.C1C[N+]2(CC[NH+]1CC2)CCl>>[H:20][F:10].C1CCC(CC1)[P:22](=[O:21])(C2CCCCC2)C3CCCCC3.[B-](F)(F)(F)F.C1C[N+]2(CC[NH+]1CC2)CCl 10=20;20,21=21,22
[H:20][CH:21](CC#[C-])[CH2:22][Br:23].[NH2-:10]>>[H:20][NH2:10].[CH2:22]=[CH:21]CC#[C-].[Br-:23] 10=20;22,23=23;20,21=21,22
C1CO[C:20](=[O:21])OC1.[Cl-:10]>>C1CO[C:20](OC1)([O-:21])[Cl:10] 10=20;20,21=21
[H:20][N+:21]1=C2CCCCCN2CCC1.CC(=O)C(C[C:10](=[C:11]([O-:12])OC)Br)C(=O)OC>>[H:20][C:10](CC(C(=O)C)C(=O)OC)([C:11](=[O:12])OC)Br.C1CCC2=[N:21]CCCN2CC1 10,11=10,20;20,21=21;12=11
[H:20][NH2+:21]CC1=CC=CO1.CC(=O)CCC(C)(NCC1=CC=CO1)[O-:10].O>>[H:20][O:10]C(C)(CCC(=O)C)NCC1=CC=CO1.C1=COC(=C1)C[NH2:21].O 10=20;20,21=21
CCOC[C:20](=[O:21])NC1=C(C2=C(C=CC=C2)N=C1N)[NH:10]CC(C)(C)O>>CCOC[C:20]1(NC2=C([NH+:10]1CC(C)(C)O)C3=C(C=CC=C3)N=C2N)[O-:21] 10=20;20,21=21
CCOC(=O)C[C:20](=[O+:21]CC[OH:10])CC(=O)OCC.[B-](O)(F)(F)F.CCOCC.CC1=CC=C(C=C1)S(=O)(=O)[O-].C(CO)O.O>>CCOC(=O)C[C:20]1([OH+:10]CC[O:21]1)CC(=O)OCC.[B-](O)(F)(F)F.CCOCC.CC1=CC=C(C=C1)S(=O)(=O)[O-].C(CO)O.O 10=20;20,21=21
C1=C[C-:10]([C:20](C=C1)(O)[F:21])[N+](=O)[O-]>>C1=C[C:10](=[C:20](C=C1)O)[N+](=O)[O-].[F-:21] 10=20;20,21=21
C1CC[C:20](=[O:21])C(C1)CC(=O)C2=CC=C(C=C2)Cl.[NH3:10].CO>>C1CC[C:20](C(C1)CC(=O)C2=CC=C(C=C2)Cl)([NH3+:10])[O-:21].CO 10=20;20,21=21
[H:20][OH2+:21].CN1C2=C(C=CC=C2)C3=CC(=CC=C31)[O:10]C(O)OC>>[H:20][O+:10](C1=CC=C2C(=C1)C3=C(N2C)C=CC=C3)C(O)OC.[OH2:21] 10=20;20,21=21
[H:20][CH:21]1CC2CC(C3(C2C[N+:22]1(C)[O:23]C(=O)C(F)(F)F)COC(=O)N3)OCOC.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[N+:22]1=[CH:21]CC2CC(C3(C2C1)COC(=O)N3)OCOC.C(=O)(C(F)(F)F)[O-:23] 10=20;22,23=23;20,21=21,22
[Li]OC(C12C(=C)C(N1S(=O)(=O)C3=C2C=CC=C3)N(C4=CC=CC=C4)S(=O)(=O)C5=CC=C(C=C5)C)[O:10]CC.[AlH3:20]>>[Li]OC(C12C(=C)C(N1S(=O)(=O)C3=C2C=CC=C3)N(C4=CC=CC=C4)S(=O)(=O)C5=CC=C(C=C5)C)[O+:10](CC)[AlH3-:20] 10=20,
COC1=CC=C(C=C1)[P:10](C2=CC=C(C=C2)OC)C3=CC=C(C=C3)OC.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>COC1=CC=C(C=C1)[P+:10]([CH2:20]C2=CC=C(C=C2)C#N)(C3=CC=C(C=C3)OC)C4=CC=C(C=C4)OC.[Br-:21] 10=20;20,21=21
C[CH:20]1[NH+:21](CC[O:10]1)C>>C[CH:20]=[O+:10]CC[NH:21]C 10=20;20,21=21
C[P+:22](C)(C)[O:21][CH2:20]C[NH2:10]>>C1[CH2:20][NH2+:10]1.C[P:22](=[O:21])(C)C 10=20;20,21=21,22
[H:20][C:21]1([CH+:22]C(=CO1)S(=O)(=O)O)Br.[Br-:10]>>[H:20][Br:10].[CH:22]1=[C:21](OC=C1S(=O)(=O)O)Br 10=20;20,21=21,22
CC(C)[CH+:20]OC.[Br-:10]>>CC(C)[CH:20](OC)[Br:10] 10=20,
[H:20][CH:21]1CCCC([C:22]1=[N+:23]2CCCC2)C.[OH2:10]>>[H:20][OH2+:10].CC1CCC[CH:21]=[C:22]1[N:23]2CCCC2 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.C1CC(CC2C1CCN2CCS(=O)C3=CC=CC=C3)([NH2+]NC4=CC=CC=C4)[O-:10]>>[H:20][O:10]C1(CCC2CCN(C2C1)CCS(=O)C3=CC=CC=C3)[NH2+]NC4=CC=CC=C4.CC(=O)[O-:21] 10=20;20,21=21
[H:20][C:21](C)(C1=CC=CC=C1)[CH:22](C)[Br:23].CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.C[CH:22]=[C:21](C)C1=CC=CC=C1.[Br-:23] 10=20;22,23=23;20,21=21,22
C[NH:10][CH+:20][S-]>>C[NH+:10]=[CH:20][S-] 10=20,
CC1CC2CC[C:10](=[C:11]([O-:12])OC)[CH:20]1[O:21]C2=O>>CC1CC(CC[C:10](=[CH:20]1)[C:11](=[O:12])OC)C(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.CCCC(=[O:10])O.CCCCCCCCO>>[H:20][O+:10]=C(CCC)O.OS(=O)(=O)[O-:21].CCCCCCCCO 10=20;20,21=21
C[NH+:21]=[C:20](O)OC.[OH2:10]>>C[NH:21][C:20]([OH2+:10])(O)OC 10=20;20,21=21
[H:20][O+:21](CC)C(C)NC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[O:21]C(C)NC 10=20;20,21=21
[H:20][C:21]1(C(=O)OC(O[C:22]1=[O:23])(C)C)C(CC)N(C)CC(=O)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCC([C:21]1=[C:22](OC(OC1=O)(C)C)[O-:23])N(C)CC(=O)O 10=20;22,23=23;20,21=21,22
C[NH+:21]=[C:20](O)O.[OH2:10]>>C[NH:21][C:20]([OH2+:10])(O)O 10=20;20,21=21
CCO[C:11]1=[CH:10]C=CC=C1.[N+:20](=O)=[O:21]>>CCO[C+:11]1C=CC=C[CH:10]1[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CC(=O)[O-:10].C[Si:20](C)(C)[O+]=C1CCCCC1>>CC(=O)[O:10][Si-:20](C)(C)(C)[O+]=C1CCCCC1 10=20,
[H:20][C:21]12C=C([C:24](=[O:25])[CH:23]=[C:22]1CC([NH2+]2)C(=O)[O-])O.C[NH2:10]>>[H:20][NH2+:10]C.C1C([NH2+][C:21]2=[C:22]1[CH:23]=[C:24](C(=C2)O)[O-:25])C(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
C[C+:20]=O.[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)C(F)(F)F>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=C(C=CC=C12)C(F)(F)F 10,11=10,20
